US08877779B2
(R)-1-[1-(acenaphthen-1-yl)piperidin-4-yl]-3-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
(R)-1-[1-(Acenaphthen-1-yl)piperidin-4-yl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (0.78 g) was dissolved in DMF (20 ml), 60% sodium hydride (90 mg) was added, and the suspension was stirred for 20 min. Then, methyl iodide (340 mg) was added, and the mixture was stirred at room temperature for 3 hr. The reaction mixture was poured into saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over magnesium sulfate, and concentrated. The obtained residue was purified by silica gel column chromatography (chloroform/methanol) to give the title compound (0.58 g) as a yellow powder.

reactant | (R)-1-[1-(Acenaphthen-1-yl)piperidin-4-yl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 0.78 g | [C@H]1(CC2=CC=CC3=CC=CC1=C23)N2CCC(CC2)N2C(NC3=NC=CC=C32)=O | C23H22N4O
reactant | sodium hydride | 90 mg | [H-].[Na+]
reactant | methyl iodide | 340 mg | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | (R)-1-[1-(acenaphthen-1-yl)piperidin-4-yl]-3-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 0.58 g | [C@H]1(CC2=CC=CC3=CC=CC1=C23)N2CCC(CC2)N2C(N(C3=NC=CC=C32)C)=O | C24H24N4O
